* Z:\mnt\design.r\spice\examples\1997-2.asc
V1 +V 0 15
V2 -V 0 -15
XU1 LINE MP_01 0 MP_02 0 0 0 -V OUT NC_03 +V OUT MP_04 OUT MP_05 0 LT1997-2
V4 0 LINE SINE(0 169.7 60)
.tran 50m
* Direct Line Voltage (120 VAC, 60Hz) Measurement
.lib LTC6.lib
.backanno
.end
